Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I just can't take day to day life"
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Per Dr. ___ ___ Psychiatry Consult note,

"Interview conducted with the patient's wife in the room, per 
the patient's preference. On interview, patient reports that he 
had a 'really bad day.' He just found out that his passport had 
expired, and that for some reason, this triggered him to have a 
severe 'anxiety attack' and worsening of his depression to the 
point where he felt like he wanted to jump in front of the 
subway. The patient states he knew that deep down it wasn't a 
big deal, but that he has been having an increasingly hard time 
getting by in every day life (going to work, taking care of his 
child), and that this was just 'one more thing' to add,
especially as he had planned to go on a trip to ___ next 
week. The patient's wife notes that during this episode the 
patient was acting in a way which she had never seen, was 
staring off, trying to walk away from her, not responding to 
her, and saying that he would be better off not around, and 
mentioned jumping in front of a train. He then pulled out a 
pencil sharpener with a razor, and told his wife, 'See, I could 
kill himself if I wanted to,' which was something the patient 
had never done or said before. He surrendered the pencil 
sharpener to his wife, and the wife was able to obtain an 
emergency appointment with patient's psychiatrist, Dr. ___. 
At the office, he was sectioned and sent by ambulance to ___.

In regards to his depression, patient endorses feeling hopeless, 
low energy, guilt, intrusive negative thoughts, and decreased 
appetite. Patient is not really give specific reasons of why his 
depression is worsening, and that he just 'can't take life' 
anymore, noting stress with work, finances, and having a new 
baby. He intermittently feels passively suicidal, feeling that 
'everyone would be better off without me,' but it had never 
escalated beyond this prior to today. His anxiety is also 
worsened; patient states he worries about everything (he states 
he ___ see something broken on the subway and start worrying 
and feeling sorry for the person who has to fix it). He reports 
his thoughts start and take off running. He especially has 
anxiety surrounding himself, feeling he is inadequate at work 
and that he is being a bad father. He reports his own father was 
emotionally abusive, and he constantly fears that he ___ become 
that way. He denies any hallucinations or delusions, symptoms of 
mania, and flashbacks. Of note, patient's wife is very concerned 
about him; has never seen her husband the way that he presented 
today, and feels that she would feel safe with him at home with 
their child, not because he is afraid he would harm him, but 
because she worries his level of anxiety might interfere with 
the care of the child.

Patient reports he has been on ___ for a number of years, 
but stopped taking it ___ months ago because he felt he didn't 
need it. When his symptoms worsened, he resumed care with Dr. 
___ weeks ago and restarted ___. He recently got a 
therapist and had one visit; however the therapist left for 
vacation."

Per Dr. ___ ___ Resident Accept Note,

"The patient begins the interview by stating that he feels 'like 
a bad father,' and wants desperately to be with his son, ___, 
who is ___ months old.  He switched jobs when ___ was born, and 
believes that the past year has been particularly stressful, 
adjusting to both the responsibilities of his family and his 
work.  He says that 'people at work like [him],' but that he is 
sure he is 'doing a terrible job, and nobody knows.'  He 
describes himself as someone who catastrophizes, 'looking for 
the worst possible scenario;' he would, even as a child, 'let 
the little things get to [him].'  He has always been able to 
manage his anxiety using coping skills such as meditation and 
running, but has had little time in the past 11 months to tend 
to himself or his relationship with his wife.  He sadly reflects 
that the time spent with his wife, ___, in the ED was the most 
and most meaningful time they have spent together since ___ 
birth.

He states at multiple times over the course of the interview 
that he loves his son, and '[doesn't] want to let him down,' 
clarifying that he doesn't want him to know that he's a bad 
father.  He states that he had a 'rough childhood,' and only 
recently began to discuss his psychological traumas with a 
counselor at ___ Counseling ___.  He believes he has 
benefitted greatly from his sessions, which were weekly, but 
states that his therapist has recently left for vacation, and 
that he has deteriorated in her absence.  He feels he has no
outlet.  He additionally shares that stopped his ___ 3 
months ago, which he has taken for the last few years, believing 
he no longer needed it; he resumed his medication after 1 month 
having noticed a worsening in his anxiety and mood, and has 
since then continued to take it daily.

When asked about the events which led to his presentation to the 
ED, and subsequent hospitalization, he states that he doesn't 
want to kill himself, but that he found himself overwhelmed this 
morning.  Riding on the subway with his wife, he found himself 
noticing metal and bits of broken machinery, then worrying about 
the people who were going to have to fix them, worrying about 
the
state of the ___ transportation system, and worrying about 
the state of the nation.  He denies prior history of panic 
attacks, but recalls that his wife observed him to be 
'twitching' and hyperventilating, saying 'I can't do it, I can't 
do it,' over and over again.  He had a fleeting thought of 
wanting to throw himself onto the subway, but feared that it 
would shut down the T.  He endorses a growing desire to 'step 
away from [his] commitments,' including his family and his work, 
but denies that he has ever experienced thoughts or plans of 
wanting to end his life.  He does believe that things have 
'spiraled out of
control,' and both he and his wife are hopeful that inpatient 
hospitalization ___ provide some stabilization.
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
-Prior diagnoses: Generalized anxiety disorder
-Hospitalizations: None prior
-Partial hospitalizations: None prior
-Psychiatrist: Dr. ___ at ___
-Therapist: ___ at ___ 
-Medication trials: ___ 15 mg daily; no other medicaitons
-___ trials: Denies
-Suicide attempts: Denies
-Self-injurious behavior: Denies
-Harm to others: Denies
-Trauma: Verbal/Psychological abuse from biological father
-Access to weapons: Denies

PAST MEDICAL HISTORY:
**PCP: Dr. ___ at ___
-Psoriasis
Denies history of head trauma, seizure.
 
Social History:
SOCIAL HISTORY:
-Born/Raised: Born in ___, parents moved around 12 
different times
as a kid
-Family: Has full brother, ___ sister, ___ brother, 2 step
siblings. Parents divorced when he was ___. Dad on ___ wife, and
mom on ___ marriage
-Relationship status/Children: Married to wife ___, together 
they have 11 month old son named ___
-Primary Supports: Good relationship with wife ___, mother, 
stepfather, and brother
-___: Lives in apartment in ___ with wife and son
-Education: ___ in ___.
-Employment/Income: Works at ___ for his old 
professors,
working on ___
-Spiritual: Used to go to ___ groups, now more 
agnostic/atheist
-Military History:
-Additional information:

SUBSTANCE USE HISTORY:
-Caffeine: A cup or less of coffee per day
-Tobacco: Denies
-Alcohol: 6-pack beer per week.
-Marijuana: MJ on weekends, 2 vaporizer hits when he smokes
-Other Drugs: Denies

FORENSIC HISTORY:
-Arrests: Denies
-Convictions and jail terms: Denies
-Current status (pending charges, probation, parole): Denies

 
Family History:
FAMILY PSYCHIATRIC HISTORY:
-Psychiatric Diagnoses: Brother and biological father with 
anxiety
-___ Use Disorders: Father with alcohol use disorder
-Suicide Attempts/Completed Suicides: Denies

 
Physical Exam:
Examination on Admission:

VITALS:
T 97.4, HR 76, BP 123/87, RR 20, SpO2 94% on RA

PHYSICAL EXAM:
General: Young well-nourished, well-developed male in NAD. 
HEENT: Normocephalic, atraumatic. PERRL, EOMI. Oropharynx clear.
Neck: Supple.
Back: No significant deformity.
Lungs: CTA ___. No crackles, wheezes, or rhonchi.
CV: RRR, no murmurs/rubs/gallops. 
Abdomen: +BS, soft, nontender, non-distended. 
Extremities: No clubbing, cyanosis, or edema.
Skin: Multiple psoriatic rashes on the dorsal surfaces of his 
arms.

NEUROLOGICAL EXAM:
Cranial Nerves:
-Pupils symmetry and responsiveness to light and accommodation: 
PERRLA.
-Visual fields: Full to confrontation.
-EOM: Full.
-Facial sensation to light touch in all 3 divisions: Equal.
-Facial symmetry on eye closure and smile: Symmetric.
-Hearing bilaterally to rubbing fingers: Normal.
-Phonation: Normal.
-Shoulder shrug: Intact.
-Tongue: Midline.
Motor: Normal bulk and tone bilaterally. No abnormal movements, 
no tremor. 
Strength: full power ___ throughout. 
Coordination: Normal on finger to nose test. 
DTRs: 2+ and symmetrical throughout. 
Sensation: Intact to light touch throughout. 
Gait: Steady. Normal stance and posture. No truncal ataxia.

MENTAL STATUS EXAM:
Appearance: Young well-groomed male with graying hair wearing 
glasses and a hospital gown, appears anxious but in no acute 
distress.
Behavior: Cooperative, engaged, tense and nervous-appearing 
though able to sit still, intermittent eye contact, no 
psychomotor agitation or retardation.
Mood and Affect: "I'm just overwhelmed, I guess" / Dysphoric, 
labile, tearful, but reactive, occasionally smiling 
appropriately in response to conversation; appropriate to 
situation, congruent with mood.
Thought Process: Linear, coherent, goal-oriented. No LOA.
Thought Content: SI as per HPI.  Denies HI/AVH, no evidence of 
bizarre delusions or paranoia.
Judgment and Insight: Fair/fair

COGNITIVE EXAM: 
Wakefulness/alertness: Awake and alert.
Attention: Intact to interview.
Orientation: Oriented to person, time, place, situation.
Memory: Intact to recent and past history.
Fund of knowledge: Consistent with education.
Calculations: Correctly states 7 quarters in $1.75.
Abstraction: Apple/orange = "fruits"
Speech: Normal volume and prosody.  Somewhat increased rate of 
speech although not pressured.
Language: Native ___ speaker, no paraphasic errors, 
appropriate to conversation.

Examination on Discharge:

VITALS:
T 97.7, HR 70, BP 125/79, RR 16, SpO2 98% on RA

MENTAL STATUS EXAM:
-Appearance: Young well-groomed male wearing glasses and a 
striped shirt/scrub bottoms, appears in no acute distress.
-Behavior: Open body language, consistent eye contact, 
occasionally rubs fingers together, psychomotor agitation or 
retardation.
-Attitude: cooperative, engaged
-Mood: "Pretty good" 
-Affect: Cheerful, smiles appropriately in response to 
conversation, grateful for assistance
-Speech: Normal rate, volume, and tone
-Thought process: Linear, coherent, goal-oriented, no loose 
associations
-Thought Content:
---Safety: Denies current SI, although history of SI per HPI. 
Denies HI.
---Delusions: No evidence of paranoia, etc. 
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH currently, not appearing to be 
attending to internal stimuli.
-Insight: Fair
-Judgment: Fair

COGNITIVE EXAM:
-Wakefulness/alertness: Awake and alert
-Attention: Not formally assessed but attentive to interview
-Orientation: Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): Not assessed
-Memory: Not formally assessed but intact to interview
-Language: Native ___ speaker, no paraphasic errors, 
appropriate to conversation

 
Pertinent Results:
CBC w/ Diff:
___: WBC: 7.0
___: RBC: 5.40
___: HGB: 17.0
___: HCT: 48.2
___: MCV: 89
___: MCH: 31.5
___: MCHC: 35.3
___: RDW: 12.7
___: Plt Count: 208
___: Neuts%: 61.9
___: Lymphs: 26.8
___: MONOS: 8.1
___: Eos: 1.6
___: BASOS: 0.6
___: AbsNeuts: 4.34

BMP:
___: Na: 137
___: K: 3.7
___: Cl: 99
___: CO2: 21*
___: BUN: 18
___: Creat: 1.0
___: Glucose: 95 (If fasting, 70-100 normal, >125 
provisional diabetes)

HgbA1c:
___: %HbA1c: 5.0 ___ recommendations:; <7%  goal of 
therapy; >8%  warrants therapeutic action)

Thyroid Studies:
___: TSH: 5.8*
___: fT4: 1.2

Lipid Panel: (non-fasting)
___: Cholesterol: 212*
___: Triglycerides: 89
___: HDL: 53
___: LDL (calc): 141* (LDL(calc) invalid if Non- Fasting 
sample.)

STox:
___: ASA, EtOH, Acetmnphn, Benzo, Barb, Tricyc: NEG

UTox:
___: Benzodiazepine: NEG (Benzodiazepine immunoassay screen 
does not detect some drugs,; including Lorazepam, Clonazepam, 
and Flunitrazepam)
___: Barbiturate: NEG
___: Opiate: NEG (Opiate assay does not reliably detect 
synthetic opioids; such as Methadone, Oxycodone, Fentanyl, 
Buprenorphine, Tramadol,; Naloxone, Meperidine. See online Lab 
Manual for details)
___: Cocaine: NEG
___: Amphetamine: NEG
___: Methadone: NEG (Methadone assay detects Methadone (not 
other Opiates/Opioids); Quetiapine (Seroquel) may cause a false 
positive result)

UA:
___: Urine pH (Hem): 8.5*
___: Urine Glucose (Hem): NEG
___: Urine Protein (Hem): TR (pH >= ___ cause falsely 
elevated urine protein)
___: Urine Bilirubin (Hem): NEG
___: Urobilinogen: NEG
___: Urine Ketone (Hem): 10
___: Urine Blood (Hem): NEG
___: Urine Nitrite (Hem): NEG
___: Urine Leuks (Hem): NEG

 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission,  Mr. ___ signed a conditional voluntary 
agreement (Section 10 & 11) and that legal status remained in 
place throughout admission.  Mr. ___ was also placed on 15 
minute checks status on admission and remained on that level of 
observation throughout while being unit restricted.

2. PSYCHIATRIC:
#) Generalized Anxiety Disorder
On admission, Mr. ___ was very anxious and endorsing some 
symptoms of depression.  He identified that he was not doing a 
good job of taking care of himself and recognizing his 
increasing anxiety, particularly since his son was born 11 
months ago.  He noted sleep deprivation was something that was 
exacerbating his symptoms of anxiety and depression.  He also 
recognized with the help of the team that he was afraid of 
becoming like his dad, whom was psychologically and emotionally 
abusive towards him and his brothers as children.  Mr. ___ 
___ was increased from 15 mg daily to 20 mg daily with no 
adverse effects noted. He engaged in all of the groups offered 
and worked on learning new coping skills; additionally, he 
elected to continue in a partial hospitalization program at the 
___ to continue attending groups and learning coping skills. 
His anxiety and depression decreased through admission and he 
did not have any suicidal ideation at the time of discharge.

3. SUBSTANCE USE DISORDERS:
Mr. ___ has no substance use disorders.

4. MEDICAL
Mr. ___ was medically cleared in the ED; no acute  medical 
issues prevented admission to Deac 4.  

#Psoriasis
Mr. ___ does not take any medications for psoriasis at this 
time.

#Subclinical Hypothyroidism
TSH slightly elevated at 5.8, fT4 normal at 1.2.  ___ defer 
further workup of etiology and trending TSH/fT4 to PCP.  No 
indication to start medication at present.

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
Mr. ___ was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
occupational therapy and social work groups that focus on 
teaching patients various coping skills.  Mr. ___ attended as 
___ groups as he could and made good use of his time in group.  
Mr. ___ was visible on the milieu and appropriately 
interacted with staff and peers.

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
Dr. ___, outpatient psychiatrist, was contacted in the 
ED and provided collateral; was also contacted during admission 
and provided further collateral as well as furnished with 
update.  Mr. ___ gave verbal and written consent for this 
communication.

___, outpatient therapist, was out of the office 
during the beginning of Mr. ___ admission; a message was 
left requesting call back to furnish update/collect collateral, 
but she did not call back prior to discharge.  Mr. ___ gave 
verbal and written consent for this communication.

Mr. ___ wife, ___, was contacted by SW, and the team also 
spoke with her with Mr. ___ permission.

6. INFORMED CONSENT: 
*Medication: ___ (escitalopram)
---Benefits: Treatment of anxiety
---Adverse effects: Decreased appetite, nausea, diarrhea, 
constipation, dry mouth, insomnia, tremors, headache, dizziness, 
sexual dysfunction (decreased sexual desire, anorgasmia), 
seizures (rare), weight gain (unusual), sedation (unusual), 
activation of suicidal ideation (rare)
Mr. ___ was informed of alternative treatments, the 
consequences of no treatment, and the expected duration of 
treatment. He appeared to appreciate the information conveyed in 
the consent process by asking appropriate questions, which were 
answered by the treatment team, and expressing understanding of 
the potential risks and benefits (see above).  Prior to 
increasing his dose, the team also discussed the patient's right 
to decide whether to take this medication as well as the 
importance of the patient's actively participating in the 
treatment.  Mr. ___ understood the above and consented to 
increase the dose of escitalopram, as he had been taking this 
medication prior to admission.

7. RISK ASSESSMENT
On presentation, Mr. ___ was evaluated and felt to be at an 
increased risk of harm to himself due to suicidal ideation with 
plan to jump in front of a subway train.  Mr. ___ static 
risk factors noted at that time include chronic mental illness, 
history of abuse, family history of mental illness/substance use 
disorder, male gender, Caucasian ethnicity.  The modifiable risk 
factors identified were as such: suicidal ideation with 
intent/plan, potential impulsiveness, poorly controlled mental 
illness, severe anxiety/panic attacks, insomnia/lack of sleep, 
decreased self-esteem, limited coping skills.  These modifiable 
risk factors were addressed with acute stabilization in a safe 
environment on a locked inpatient unit, psychopharmacologic 
adjustments, psychotherapeutic interventions (OT groups, SW 
groups, individual therapy meetings with psychiatrists), and 
presence on a social milieu environment.  Mr. ___ is being 
discharged with many protective factors, including age, children 
in the home, sense of responsibility to family, married, 
employment, help-seeking behavior, life satisfaction, 
future-oriented viewpoint, strong social supports, lack of 
suicidal ideation, consistent outpatient follow-up, positive 
therapeutic relationship with outpatient providers, medication 
compliance, no prior suicide attempts/self-injurious behavior, 
no chronic substance use, no access to lethal weapons, 
reality-testing ability.  Overall, based on the totality of our 
assessment at this time, Mr. ___ is not at an acutely 
elevated risk of self to harm nor danger to others. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Escitalopram Oxalate 15 mg PO DAILY 

 
Discharge Medications:
1.  Escitalopram Oxalate 20 mg PO DAILY 
RX *escitalopram oxalate 20 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Generalized anxiety disorder
Unspecified depressive disorder

 
Discharge Condition:
Mental status: Linear, logical, organized thoughts.
Level of consciousness: Alert and interactive.
Activity status: Ambulatory without assistance, independent with 
ADLs and iADLs.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed -- 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs -- whether 
prescription drugs or illegal drugs -- as this can further 
worsen your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___